US05521170
The mixture of ethyl 3-chloro-4-[2-(2-methylphenyl)-benzoylamino]benzoate (4.0 g), 1N sodium hydroxide aqueous solution (15 ml) and ethanol (30 ml) was stirred for 5 hours at ambient temperature. Ethanol was removed in vacuo and the residue was washed with diethyl ether and the aqueous layer was acidified with 1N hydrochloric acid and diluted with ethyl acetate. The solution was washed with brine and dried over magnesium sulfate. Filtering and the removal of solvent afforded crude 3-chloro-4 [2-(2-methylphenyl)benzoylamino]benzoic acid (3.1 g).

reactant | ethyl 3-chloro-4-[2-(2-methylphenyl)-benzoylamino]benzoate | 4.0 g | ClC=1C=C(C(=O)OCC)C=CC1NC(C1=C(C=CC=C1)C1=C(C=CC=C1)C)=O | C23H20ClNO3
reactant | sodium hydroxide | 1N, 15 ml | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-chloro-4 [2-(2-methylphenyl)benzoylamino]benzoic acid | 3.1 g | ClC=1C=C(C(=O)O)C=CC1NC(C1=C(C=CC=C1)C1=C(C=CC=C1)C)=O | C21H16ClNO3
